US07008940B1
1,6,7,8-Tetrahydro-2,2,4,5,7-pentamethyl-2H-furo[3,2-e]indole hydrochloride
To a solution of 2,3-dihydro-5-hydroxy-2,6,7-trimethyl-4-(2-methyl-2-propen-1-yl)-1H-indole-1 carbaldehyde (0.26 g, 1.0 mmol) in ethanol (3 mL) was added concentrated hydrochloric acid (0.5 mL), and the mixture was heated to reflux for 1 hour. The reaction mixture was treated with active carbon, filtered, and concentrated under reducer pressure. The residue was recrystallized from ethanol-diethyl ether to obtain 0.14 g of the title compound.

reactant | 2,3-dihydro-5-hydroxy-2,6,7-trimethyl-4-(2-methyl-2-propen-1-yl)-1H-indole-1 carbaldehyde | 1.0 mmol, 0.26 g | OC=1C(=C2CC(N(C2=C(C1C)C)C=O)C)CC(=C)C | C16H21NO2
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1,6,7,8-Tetrahydro-2,2,4,5,7-pentamethyl-2H-furo[3,2-e]indole hydrochloride | 0.14 g, Yield 52% | Cl.CC1(CC2=C3CC(NC3=C(C(=C2O1)C)C)C)C | InChI=1S/C15H21NO.ClH/c1-8-6-11-12-7-15(4,5)17-14(12)10(3)9(2)13(11)16-8;/h8,16H,6-7H2,1-5H3;1H
